US07816557B2
Racemic 3-{4-[1-(2,4,6-tri-t-butyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid
The title compound is prepared in a manner substantially similar to Example 359 starting from 3-(4-{5,5,5-trifluoro-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-pentyl}-benzoylamino)-propionic acid methyl ester and 2-bromo-1,3,5-tri-tert-butyl-benzene. MS: 652.2 [M−H]−.

reactant | 3-(4-{5,5,5-trifluoro-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-pentyl}-benzoylamino)-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)=O | C28H35BF3NO6
reactant | 2-bromo-1,3,5-tri-tert-butyl-benzene | BrC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C | C18H29Br
product | Racemic 3-{4-[1-(2,4,6-tri-t-butyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid | C(C)(C)(C)C1=C(OC(CCCC(F)(F)F)C2=CC=C(C(=O)NCCC(=O)O)C=C2)C(=CC(=C1)C(C)(C)C)C(C)(C)C | C33H46F3NO4
